US04861580
Solubilization of Pregnanolone
The cholesterol hemisuccinate Tris salt had been prepared as follows. Cholesterol hydrogen succinate (50.3 g, 0.11 moles) from ICN, Cleveland, Ohio, was dissolved in 1.5 liters of diethyl either. Tris base (12 1 g, 0.1 moles) from Fisher, Fairlawn, N.J., was dissolved in 30 ml of water. The Tris solution was then added to the cholesterol solution, and the resulting solution was rotoevaporated to a milky wet residue. The milky residue was freeze dried for 12 hours, after which the cholesterol hemisuccinate Tris salt product was recrystallized three times from about 5-liter volumes of boiling ethyl acetate.

reactant | Cholesterol hydrogen succinate | 0.11 moles, 50.3 g | C(CCC(=O)O[C@@H]1CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)(=O)O | C31H50O4
reactant | ICN | IC#N | CIN
reactant | Tris base | 0.1 moles, 1 g | C(C(CO)(CO)N)O | C4H11NO3
reactant | cholesterol | CC(C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@@H](O)CC[C@]4(C)[C@H]3CC[C@]12C | C27H46O
solvent | water | 30 ml | O | H2O
product | Pregnanolone | CC(=O)[C@H]1CC[C@@H]2[C@@]1(CC[C@H]3[C@H]2CC[C@H]4[C@@]3(CC[C@H](C4)O)C)C | C21H34O2
